US08912218B2
4.2. 2-{2-[6′-(4-Fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]ethyl}isoindole-1,3-dione
The procedure described in Example 1 (step 1.2.) is followed, Starting from g (6.66 mmol) of 2-[6′-(4-fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]ethanol, prepared in step 4.1., 2.096 g (7.99 mmol) of triphenylphosphine, 1.077 g (7.32 mmol) of phthalimide and 1.61 g (7.99 mmol) of diisopropyl azodicarboxylate (DIAD), and after chromatography on silica gel, eluting with a 15/85 mixture of ethyl acetate and cyclohexane, gives 1.4 g of pure product in the form of a white powder.

reactant | 2-[6′-(4-fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]ethanol | 6.66 mmol | FC1=CC=C(C=C1)C1=CC=CC(=N1)N1CCC(CC1)CCO | C18H21FN2O
reactant | triphenylphosphine | 7.99 mmol, 2.096 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 7.32 mmol, 1.077 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diisopropyl azodicarboxylate | 7.99 mmol, 1.61 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 2-{2-[6′-(4-Fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]ethyl}isoindole-1,3-dione | 1.4 g | FC1=CC=C(C=C1)C1=CC=CC(=N1)N1CCC(CC1)CCN1C(C2=CC=CC=C2C1=O)=O | C26H24FN3O2
